US06787535B2
Trifluoromethanesulfonic acid 3-methyl-2-nitrophenyl ester (26.7 g, 93.6 mmol), 1-tert-butoxycarbonyl piperazine (17 g, 91.3 mmol) and triethylamine (14 mL, 100 mmol) in 250 mL of acetonitrile was heated under reflux for 25 h. The mixture was concentrated in vacuo, diluted with water and extracted with ether. The ether was washed with aqueous ammonium hydroxide and brine, dried, and evaporated. Purification by silica gel chromatography (10% ethyl acetate-hexane) afforded 11 g of 4-(3-methyl-2-nitrophenyl)-piperazine-1-carboxylic acid tert-butyl ester as a golden solid, m.p. 101-102° C.

reactant | Trifluoromethanesulfonic acid 3-methyl-2-nitrophenyl ester | 93.6 mmol, 26.7 g | CC=1C(=C(C=CC1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO5S
reactant | 1-tert-butoxycarbonyl piperazine | 91.3 mmol, 17 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 100 mmol, 14 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 4-(3-methyl-2-nitrophenyl)-piperazine-1-carboxylic acid tert-butyl ester | 11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)[N+](=O)[O-] | C16H23N3O4
